US04602027
A mixture of methyl 2-cinnamoylamino-3-oxovalerate (8.25 g), phosphorus oxychloride (5.6 ml) and toluene (80 ml) was refluxed with stirring for 40 minutes. The solvent was then distilled off and the residue was neutralized with aqueous sodium hydrogen carbonate and extracted with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off and the oily residue was dissolved in ethanol (30 ml). To the solution was added 2N sodium hydroxide (30 ml) and the mixture was heated on a water bath at 90° C. for 5 minutes. After cooling, the reaction mixture was adjusted to pH 2 with 2N hydrochloric acid and diluted with water. The resulting crystalline precipitate was collected by filtration to give 5-ethyl-2-styryl-4oxazolecarboxylic acid; yield 7.12 g (97.7%). Recrystallization from ethanol gave colorless prisms melting at 143°-144° C.

reactant | methyl 2-cinnamoylamino-3-oxovalerate | 8.25 g | C(C=CC1=CC=CC=C1)(=O)NC(C(=O)OC)C(CC)=O | C15H17NO4
reactant | phosphorus oxychloride | 5.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 5-ethyl-2-styryl-4oxazolecarboxylic acid | C(C)C1=C(N=C(O1)C=CC1=CC=CC=C1)C(=O)O | C14H13NO3
